US07423012B2
A solution of PyBOP (2.1 g, 4.0 mmol) in DMF (3 mL) was added to a mixture of (1-benzyloxycarbonylamino-2-methyl-propyl)-phosphonic acid monomethyl ester (1.0 g, 3.32 mmol) and 5-tert-butoxycarbonylamino-2-hydroxy-pentanoic acid methyl ester (865 mg, 3.5 mmol) in DMF (4 mL) under argon. DIPEA (2.28 mL, 13.3 mmol) was added dropwise and the mixture was stirred over night. Ethyl acetate was added and the mixture was washed with 10% KHSO4, satd. NaHCO3 and brine and dried. Concentration under reduced pressure followed by chromathography (heptane/EtOAc, 1:1→1:6) gave 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-methoxy-phosphinoyloxy]-5-tert-butoxycarbonylamino-pentanoic acid methyl ester (1.21 g, 69%).

reactant | PyBOP | 4.0 mmol, 2.1 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | (1-benzyloxycarbonylamino-2-methyl-propyl)-phosphonic acid monomethyl ester | 3.32 mmol, 1.0 g | COP(O)(=O)C(C(C)C)NC(=O)OCC1=CC=CC=C1 | C13H20NO5P
reactant | 5-tert-butoxycarbonylamino-2-hydroxy-pentanoic acid methyl ester | 3.5 mmol, 865 mg | COC(C(CCCNC(=O)OC(C)(C)C)O)=O | C11H21NO5
reactant | DIPEA | 13.3 mmol, 2.28 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[(1-benzyloxycarbonylamino-2-methyl-propyl)-methoxy-phosphinoyloxy]-5-tert-butoxycarbonylamino-pentanoic acid methyl ester | 1.21 g, 69% | COC(C(CCCNC(=O)OC(C)(C)C)OP(=O)(OC)C(C(C)C)NC(=O)OCC1=CC=CC=C1)=O | C24H39N2O9P
